US07375115B2
N-[1-[2-[1-[2-(1,2-Di-tert-butoxycarbonylguanidino)ethyl]-cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide
To a solution of N-[1-[2-[1-(2-aminoethyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide (synthesized in Example 3F-5) (104 mg) and 1,3-bis(tert-butoxycarbonyl)-2-methyl-2-thiopseudourea (85 mg) in N,N-dimethylformamide (5 mL) were added N,N-diisopropylethylamine (0.12 g) and then mercury (II) chloride (113 mg) at room temperature. The solution was stirred at room temperature for 3 days. Dichloromethane was added to the solution and insolubles were filtered off with Celite. The solvent was distilled off under reduced pressure. The resulting residue was purified by chromatography [silica gel, dichloromethane-methanol-aqueous ammonia (97:3:0.2)] to give the title compound (0.1049 g).

reactant | N-[1-[2-[1-(2-aminoethyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 104 mg | NCCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C | C26H38N4O2
reactant | 1,3-bis(tert-butoxycarbonyl)-2-methyl-2-thiopseudourea | 85 mg | C(C)(C)(C)OC(=O)NC(SC)=NC(=O)OC(C)(C)C | C12H22N2O4S
reactant | N,N-diisopropylethylamine | 0.12 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | mercury (II) chloride | 113 mg | [Hg](Cl)Cl
product | N-[1-[2-[1-[2-(1,2-Di-tert-butoxycarbonylguanidino)ethyl]-cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 0.1049 g | C(C)(C)(C)OC(=O)N(C(=NC(=O)OC(C)(C)C)N)CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C | C37H56N6O6
